US04585773
Step (b): Preparation of 1-(4-fluorobenzoyl)-piperazine
Concentrated hydrochloric acid was added dropwise to a solution of piperazine (0.124 mol) in water (110 ml) to adjust the pH to 2.8. The solution was then heated to 50° C. 4-Fluorobenzoyl chloride (0.124 mol) was added to the warm solution dropwise while maintaining the pH at 2.8 by the concurrent addition of 40% aqueous sodium acetate solution. After complete addition, a solution of potassium carbonate (47 g) in water (50 ml) was added and the mixture cooled in an ice bath. The cold mixture was extracted with chloroform (5×150 ml). The combined extracts were dried (MgSO4) and evaporated in vacuo affording 22.5 g of a white solid (88% yield). Spectral data are consistent with the assigned structure. This material was used without further purification.

reactant | hydrochloric acid | Cl | ClH
reactant | piperazine | 0.124 mol | N1CCNCC1 | C4H10N2
reactant | 4-Fluorobenzoyl chloride | 0.124 mol | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | potassium carbonate | 47 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 110 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 1-(4-fluorobenzoyl)-piperazine | 22.5 g, 88% yield | FC1=CC=C(C(=O)N2CCNCC2)C=C1 | C11H13FN2O
